US08466289B2
Synthesis of butyl 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate (I-15d)
Using the same reaction conditions, procedure and work up as described Intermediate I-25a (below), butyl 3-(1,3-dihydroxypropan-2-yl)cyclobutane-1-sulfonate (0.13 g, 0.489 mmol) was reacted with benzyl bromide (0.13 mL, 1.075 mmol), 60% NaH (60 mg, 1.467 mmol) and THF (5 mL) to afford the crude product. Purification by column chromatography on silica gel (8% ethyl acetate in hexane) afforded 0.07 g of the product (78% yield).

reactant | butyl 3-(1,3-dihydroxypropan-2-yl)cyclobutane-1-sulfonate | 0.489 mmol, 0.13 g | OCC(CO)C1CC(C1)S(=O)(=O)OCCCC | C11H22O5S
reactant | benzyl bromide | 1.075 mmol, 0.13 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 1.467 mmol, 60 mg | [H-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | butyl 3-(1,3-bis(benzyloxy)propan-2-yl)cyclobutane-1-sulfonate | 0.07 g, 78% yield | C(C1=CC=CC=C1)OCC(COCC1=CC=CC=C1)C1CC(C1)S(=O)(=O)OCCCC | C25H34O5S
